US04831035
A solution of 0.325 grams (1.11 mmol) of (2RS,12bSR)-2-cyano-2-(2-propenylamino)-1,3,4,6,7,12b-hexahydro-2H-benzofuro[2,3-a]quinolizine in 7 milliliters of tetrahydrofuran is added to a solution of 0.084 gram (2.22 mmol) of lithium aluminum hydride in 60 milliliters of ether which has been cooled to 0° C. The reaction mixture is stirred for 1.5 hours and then quenched with water. The resulting mixture is filtered through a pad of celite and the pad then washed with methanol and methylene chloride. The filtrate is dried over sodium sulfate, then filtered and concentrated to obtain (2RS,12bSR)-2-aminomethyl-2-(2-propenylamino)-1,3,4,6,7,12b-hexahydro-2H-benzofuro[2,3-a]quinolizine.

reactant | (2RS,12bSR)-2-cyano-2-(2-propenylamino)-1,3,4,6,7,12b-hexahydro-2H-benzofuro[2,3-a]quinolizine | 1.11 mmol, 0.325 grams | C(#N)C1(CCN2CCC3=C(C2C1)OC1=C3C=CC=C1)NCC=C | C19H21N3O
reactant | lithium aluminum hydride | 2.22 mmol, 0.084 gram | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 7 milliliters | O1CCCC1 | C4H8O
solvent | ether | 60 milliliters | CCOCC | C4H10O
product | (2RS,12bSR)-2-aminomethyl-2-(2-propenylamino)-1,3,4,6,7,12b-hexahydro-2H-benzofuro[2,3-a]quinolizine | NCC1(CCN2CCC3=C(C2C1)OC1=C3C=CC=C1)NCC=C | C19H25N3O
